US08138189B2
Step 2: [4-(tert-Butyl-dimethyl-silanyloxymethyl)-pyrazol-1-yl]-acetic acid methyl ester
4-(tert-Butyl-dimethyl-silanyloxymethyl)-1H-pyrazole (348 mg) was dissolved in DMF (12 mL) and cooled to 0° C. To this solution was added NaH (60% in mineral oil, 111 mg). The mixture was stirred at 0° C. for 30 minutes and then methylbromoacetate (0.23 mL) was added dropwise. The mixture was stirred at r.t. overnight. The reaction mixture was poured into ice/water and extracted with chloroform. The combined organic layers were washed with brine, dried over Na2SO4, filtered and the solvent was evaporated. The residue was purified by flash chromatography (silica gel, heptane:ethyl acetate=100:0 to 0:100) to give the title compound as a yellow oil (484 mg, 98%). MS (m/e)=285.0 [MH+].

reactant | 4-(tert-Butyl-dimethyl-silanyloxymethyl)-1H-pyrazole | 348 mg | C(C)(C)(C)[SiH2]OC(C=1C=NNC1)(C)C | C10H20N2OSi
reactant | NaH | 111 mg | [H-].[Na+]
reactant | methylbromoacetate | 0.23 mL | COC(CBr)=O | C3H5BrO2
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | [4-(tert-Butyl-dimethyl-silanyloxymethyl)-pyrazol-1-yl]-acetic acid methyl ester | 484 mg, 98% | COC(CN1N=CC(=C1)C(O[SiH2]C(C)(C)C)(C)C)=O | C13H24N2O3Si
